US07592364B2
n-Pentyl magnesium bromide (2.0 M in THF, 27 mL, 54 mmol) was added to a solution of 4-bromobenzaldehyde (5.0 g, 27 mmol) in THF (20 mL) at 0° C. under nitrogen. After 1 h, the reaction was quenched with 3 N HCl and extracted with Et2O (3×120 mL). Combined extracts were washed with brine (100 mL), dried (Na2SO4), filtered and concentrated in vacuo. Purification of the residue by flash column chromatography on silica gel (5% EtOAc/Hex) afforded 5.1 g (74%) of 1-(4-bromophenyl)-hexan-1-ol.

reactant | n-Pentyl magnesium bromide | 54 mmol, 2.0 M, 27 mL | C(CCCC)[Mg]Br
reactant | 4-bromobenzaldehyde | 27 mmol, 5.0 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(4-bromophenyl)-hexan-1-ol | 5.1 g, 74% | BrC1=CC=C(C=C1)C(CCCCC)O | C12H17BrO
